US05151513
B. (S)-α-Hydroxybenzenepropanoic acid, phenylmethyl ester
To mixture of the title A compound (9.97 g, 60 mmols) and sodium bicarbonate (10 g, 120 mmols) in dimethyformamide (50 mL) was added a solution of benzyl bromide (7.13 mL, 60 mmols) in dimethylformamide (10 mL). The mixture was stirred at 25° C. under argon for 48 hours, after which it was concentrated in vacuo. The residue was dissolved in ethyl acetate and washed with water, saturated sodium bicarbonate solution, and brine, dried over anhydrous magnesium sulfate, and concentrated. The residue (12.7 g) was chromatographed on silica gel (eluting with 4:1 hexane:ethyl acetate) to give 12 g of the title B compound.

reactant | sodium bicarbonate | 120 mmols, 10 g | C([O-])(O)=O.[Na+]
reactant | benzyl bromide | 60 mmols, 7.13 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | dimethyformamide | 50 mL | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | (S)-α-Hydroxybenzenepropanoic acid, phenylmethyl ester | O[C@H](C(=O)OCC1=CC=CC=C1)CC1=CC=CC=C1 | C16H16O3
